US05700809
7-Phenyl-1,2,3,4-tetrahydroisoquinoline
To a solution of 7-phenylisoquinoline (1.25 g, 6.1 mmol)in methanol (50 ml) was added conc HCl (2 ml) and platinum oxide (100 mg). The reaction mixture was hydrogenated at 50 psi until no further uptake of hydrogen was observed. The catalyst was filtered off, washed with methanol. The filtrate was evaporated under reduced pressure to give a solid. The solid was partitioned between ethyl acetate and sodium carbonate solution. The aqueous solution was extracted with ethyl acetate (2×100 ml). The ethyl acetate extracts were combined, washed with brine (2×100 ml), dried over magnesium sulphate, filtered and evaporated under reduced pressure to give an oil, which crystallised on standing. The solid was a mixture of the title compound and 7-phenyl-decahydroisoquinoline; Rf 0.66 (EtOAc/MeOH/NH3 5:1:1).

reactant | 7-phenylisoquinoline | 6.1 mmol, 1.25 g | C1(=CC=CC=C1)C1=CC=C2C=CN=CC2=C1 | C15H11N
reactant | HCl | 2 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | platinum oxide | 100 mg | [Pt]=O
product | 7-Phenyl-1,2,3,4-tetrahydroisoquinoline | C1(=CC=CC=C1)C1=CC=C2CCNCC2=C1 | C15H15N
